US04327026
A mixture of 3 g (9.2 mmol) of 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-2H-1,4-benzodiazepin-2-one, 4.7 ml of dimethylaniline and 1.4 ml of chlorodimethyl ether is left to stand under argon at 50° for 1 hour and at room temperature for 4 days. The mixture is made acid at 0° C. with 1 N hydrochloric acid, extracted with chloroform/ethanol (9:1) and the organic phase is washed with water. After drying and evaporating, the residue is chromatographed on 100 g of silica gel using chloroform as the elution agent. There is obtained 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(methoxymethoxy)ethyl]-2H-1,4-benzodiazepin-2-one as an oil.

reactant | 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-(1-hydroxyethyl)-2H-1,4-benzodiazepin-2-one | 9.2 mmol, 3 g | C(C)N1C(CN=C(C2=C1C=CC(=C2)C(C)O)C2=C(C=CC=C2)F)=O | C19H19FN2O2
reactant | dimethylaniline | 4.7 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | chlorodimethyl ether | 1.4 ml | COCCl | C2H5ClO
reactant | hydrochloric acid | 1 N | Cl | ClH
product | 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(methoxymethoxy)ethyl]-2H-1,4-benzodiazepin-2-one | C(C)N1C(CN=C(C2=C1C=CC(=C2)C(C)OCOC)C2=C(C=CC=C2)F)=O | C21H23FN2O3
